US07989457B2
To a solution of 1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptan-1-ol (280 mg, 0.83 mmol) in THF (2 mL) and toluene (4 mL) is added 1,1′-(azodicarbonyl)dipiperidine (ADDP, 314.1 mg, 1.24 mmol) at 0° C., followed by the addition of tributylphosphine (0.31 mL, 1.24 mmol) and methyl 4-hydroxybenzoate (151.5 mg, 1 mmol). The reaction mixture is warmed up to room temperature and stirred overnight. The mixture is loaded on silica gel, eluted with hexanes with a gradient from 0% of ethyl acetate to 50% of ethyl acetate giving ethyl 4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoate. The ester product is taken into ethanol (2 mL), treated with sodium hydroxide (5N aqueous, 1 mL) for 3 h at room temperature. The mixture is concentrated, diluted with ethyl acetate, acidified with 5 N HCl (1.1 mL), extracted with ethyl acetate. The organic layers are dried and concentrated giving 4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoic acid (330 mg).

reactant | 1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptan-1-ol | 0.83 mmol, 280 mg | FC(C1=CC=C(C=C1)C1=CC=C(C=N1)C(CCCCCC)O)(F)F | C19H22F3NO
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.24 mmol, 314.1 mg | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | tributylphosphine | 1.24 mmol, 0.31 mL | C(CCC)P(CCCC)CCCC | C12H27P
reactant | methyl 4-hydroxybenzoate | 1 mmol, 151.5 mg | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-{1-[6-(4-trifluoromethyl-phenyl)-pyridin-3-yl]-heptyloxy}-benzoate | FC(C1=CC=C(C=C1)C1=CC=C(C=N1)C(CCCCCC)OC1=CC=C(C(=O)OCC)C=C1)(F)F | C28H30F3NO3
